US07893056B2
(2R)-4-Ethyl-2-{[formyl(tetrahydro-2H-pyran-2-yloxy)amino]methyl}heptanoic acid (0.3764 g, 1.257 mmol), 2-chloro-5-fluoro-6-hydrazino-N-(4-methyl-1-piperazinyl)-N-(1,3-thiazol-2-ylmethyl)-4-pyrimidinamine (0.1683 g), NMM (0.298 mL, 2.71 mmol), HOAt (0.074 g, 0.542 mmol), and EDC (0.104 g, 0.542 mmol) were dissolved in DMF (10 mL). The reaction was left to stir overnight. Purification by RP-HPLC provided [(2R)-3-(2-{2-chloro-5-fluoro-6-[(4-methyl-1-piperazinyl)(1,3-thiazol-2-ylmethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide as a brown oily solid (0.1688 g). LCMS: (M+H)+=655.4.

reactant | (2R)-4-Ethyl-2-{[formyl(tetrahydro-2H-pyran-2-yloxy)amino]methyl}heptanoic acid | 1.257 mmol, 0.3764 g | C(C)C(C[C@@H](C(=O)O)CN(OC1OCCCC1)C=O)CCC | C16H29NO5
reactant | 2-chloro-5-fluoro-6-hydrazino-N-(4-methyl-1-piperazinyl)-N-(1,3-thiazol-2-ylmethyl)-4-pyrimidinamine | 0.1683 g | ClC1=NC(=C(C(=N1)N(CC=1SC=CN1)N1CCN(CC1)C)F)NN | C13H18ClFN8S
reactant | NMM | 2.71 mmol, 0.298 mL | CN1CCOCC1 | C5H11NO
reactant | HOAt | 0.542 mmol, 0.074 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 0.542 mmol, 0.104 g
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | [(2R)-3-(2-{2-chloro-5-fluoro-6-[(4-methyl-1-piperazinyl)(1,3-thiazol-2-ylmethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide | 0.1688 g | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OC1OCCCC1)CC1CCCC1)=O)F)N(CC=1SC=CN1)N1CCN(CC1)C | C28H41ClFN9O4S
